US07390814B2
a) 3-(3,4-Dimethoxybenzenesulfonylamino)propionic acid
A solution of 3.8 g of 3,4-dimethoxybenzenesulfonyl chloride in 5 ml of dioxane is added dropwise to a solution of 1.5 g of 3-aminopropionic acid in 20 ml of 1N NaOH solution. The mixture is left to stir while controlling the pH (pH>7) for 12 h, the pH is reduced below 7 by adding citric acid, and the reaction solution is then extracted with methylene chloride. The organic phase is dried over magnesium sulfate, concentrated under reduced pressure and employed without further purification in the next reaction step. The desired product is obtained with MW=289.31 (calculated); measured value (M+H)+: 290.1

reactant | 3,4-dimethoxybenzenesulfonyl chloride | 3.8 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | 3-aminopropionic acid | 1.5 g | NCCC(=O)O | C3H7NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 20 ml | [OH-].[Na+]
product | 3-(3,4-Dimethoxybenzenesulfonylamino)propionic acid | COC=1C=C(C=CC1OC)S(=O)(=O)NCCC(=O)O | C11H15NO6S
